US04670465
To a solution of 2.35 g (0.025 mol) of phenol in 20 ml of absolute ethanol, there was added 1.10 g (0.0275 mol) of sodium hydroxide. The mixture was refluxed until complete disolution and 2.92 g (0.0125 mol) of 1-bromobut-2-yn-4-ol tetrahydropyranyl ether were added, and the reflux resumed for 2 additional hours. It was then cooled, poured into water and extracted with ether. The organic extracts were washed with 20% aqueous sodium hydroxide solution and water, dried and evaporated in vacuo. The residue was purified by column chromatography on 50 g of silica gel, using hexane-ethyl acetate (98:2) as eluant, to yield 4-phenoxybut-2-yn-1-ol tetrahydropyranyl ether, as an oil.

reactant | phenol | 0.025 mol, 2.35 g | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydroxide | 0.0275 mol, 1.10 g | [OH-].[Na+]
reactant | 1-bromobut-2-yn-4-ol tetrahydropyranyl ether | 0.0125 mol, 2.92 g | O1C(CCCC1)OCC#CCBr | C9H13BrO2
reactant | water | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-phenoxybut-2-yn-1-ol tetrahydropyranyl ether | O1C(CCCC1)OCC#CCOC1=CC=CC=C1 | C15H18O3
